US06093716
N-(2-Benzimidazolyl)-4-(2-chloropyrid-5-yl)-2-pyrimidineamine
A solution of 2-guanidinobenzimidazole (0.83 g, 4.75 mmol) and 1-(2-chloropyrid-5-yl)-3-dimethylamino-2-propen-1-one (1.00 g, 4.75 mmol) in propan-2-ol (10 ml) was refluxed for 18 h. The solid which formed on cooling to room temperature was collected and washed with cold propan-2-ol to afford the title compound (205 mg) as a white solid m.p. 308-311°. δH (d6DMSO) 7.06 (2H, m), 7.45 (2H, m), 7.69 (1H, d, J 5.3 Hz), 7.74 (1H, d, J 8.4 Hz), 8.59 (1H, dd, J 2.5, 8.4 Hz), 8.75 (1H, d, J 5.2 Hz), 9.21 (1H, d, J 1.9 Hz) and 11.30 (1H, br s).

reactant | 2-guanidinobenzimidazole | 4.75 mmol, 0.83 g | N(C(=N)N)C=1NC2=C(N1)C=CC=C2 | C8H9N5
reactant | 1-(2-chloropyrid-5-yl)-3-dimethylamino-2-propen-1-one | 4.75 mmol, 1.00 g | ClC1=NC=C(C=C1)C(C=CN(C)C)=O | C10H11ClN2O
solvent | propan-2-ol | 10 ml | CC(C)O | C3H8O
product | N-(2-Benzimidazolyl)-4-(2-chloropyrid-5-yl)-2-pyrimidineamine | 205 mg | N1=C(NC2=C1C=CC=C2)NC2=NC=CC(=N2)C=2C=CC(=NC2)Cl | C16H11ClN6
